US06806395B2
Synthesis of 3,5-dibenzhydrylphenol
The procedure (including reaction and treatment) of Example 2 was repeated, except that 5-benzyloxy-α,α,α′,α′-tetramethyl-1,3-benzenedimethanol was replaced by 5benzyloxy-α,α, α′,α′-tetraphenyl-1,3-benzenedimethanol, to thereby yield the above-described target as a colorless oil. IR(film)cm−1: 3536, 3410, 3061, 3026, 1597, 1494. 1H-NMR(CDCl3)δ: 4.52(1H,br.s), 5.40(2H,s), 6.37(2H,s), 6.57(1H,s), 7.05(8H,dd,J=8.3,1.5 Hz), 7.15-7.26(12H,m).

reactant | 5-benzyloxy-α,α,α′,α′-tetramethyl-1,3-benzenedimethanol | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C(O)(C)C)C(O)(C)C | C19H24O3
reactant | 5benzyloxy-α,α, α′,α′-tetraphenyl-1,3-benzenedimethanol | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H32O3
product | 3,5-dibenzhydrylphenol | C(C1=CC=CC=C1)(C1=CC=CC=C1)C=1C=C(C=C(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)O | C32H26O
